US05760035
Di-isobutylaluminium hydride (13.2 ml of 1.5M solution in toluene) was added to a mixture of ethyl N-(2-phenoxyethyl)piperidine-3-carboxylate (5.0 g) in dry THF (50 ml) at 0° C. under nitrogen with stirring. The mixture was quenched with water (5 ml) and then treated with saturated Rochelles salt solution. The mixture was stirred at room temperature for 30 minutes and then filtered. The filtrate was separated and the organic layer was washed, dried and evaporated to give N-(2-phenoxyethyl)piperidine-3-carbaldehyde as an oil.

reactant | Di-isobutylaluminium hydride | 1.5M, 13.2 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl N-(2-phenoxyethyl)piperidine-3-carboxylate | 5.0 g | O(C1=CC=CC=C1)CCN1CC(CCC1)C(=O)OCC | C16H23NO3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(2-phenoxyethyl)piperidine-3-carbaldehyde | O(C1=CC=CC=C1)CCN1CC(CCC1)C=O | C14H19NO2
